US04625038
To a solution of Jones reagent (2 ml) was added sulfuric acid (0.5 ml) and acetic acid (2.5 ml). (2S-trans)-4-Cyclohexyl-2-pyrrolidinemethanol (0.5 g) in 5 ml of acetic acid was added to the above solution and after the addition, it was stirred at room temperature for 15 minutes. The reaction mixture was filtered through a Celite pad and washed with 10 ml of acetic acid. Isopropyl alcohol (2 ml) was added to the filtrate, stirred well, and a clear solution decanted and concentrated to a thick oil. The oil was dissolved in 5 ml of water and the pH was brought to 6.0 by the addition of concentrated ammonium hydroxide. The resultant precipitate was filtered, washed with 5 ml of water and excess ether, and vacuum dried to yield 0.42 g of (trans)-4-cyclohexyl-L-proline as a pink solid, which was crystallized from methanol to obtain colorless crystals.

reactant | Jones reagent | 2 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | (2S-trans)-4-Cyclohexyl-2-pyrrolidinemethanol | 0.5 g | C1(CCCCC1)[C@@H]1C[C@H](NC1)CO | C11H21NO
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | (trans)-4-cyclohexyl-L-proline | 0.42 g | C1(CCCCC1)[C@@H]1C[C@H](NC1)C(=O)O | C11H19NO2
